US03975437
Following the procedure of Example 6 but starting with 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride (8 g.) and 1-methylpiperazine (8.2 g.), 4-[2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl]-1-methylpiperazine (10 g.) is obtained in the form of an oil.

reactant | 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride | 8 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)Cl)C)C=CC=C2 | C18H15ClO2
reactant | 1-methylpiperazine | 8.2 g | CN1CCNCC1 | C5H12N2
product | 4-[2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl]-1-methylpiperazine | 10 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)N3CCN(CC3)C)C)C=CC=C2 | C23H26N2O2
